US06749865B2
The 3-nitro-2-pyridinesulfenyl chloride was added to a solution of 2-aminoethanethiol (4.1 grams, 36.19 mmol) in 230 mL of 90% formic acid. The solution was vigorously stirred for one hour. The resulting precipitate was removed by filtration, and a large volume of diethylether was added to the supernatant. The precipitate was collected, dissolved in warm methanol, and reprecipitated with diethyl ether. 3-Nitro-2-pyridinesulfenyl-ethylamine was obtained in 68% overall yield.

reactant | 3-nitro-2-pyridinesulfenyl chloride | [N+](=O)([O-])C=1C(=NC=CC1)SCl | C5H3ClN2O2S
reactant | 2-aminoethanethiol | 36.19 mmol, 4.1 grams | NCCS | C2H7NS
solvent | formic acid | 230 mL | C(=O)O | CH2O2
product | 3-Nitro-2-pyridinesulfenyl-ethylamine | [N+](=O)([O-])C=1C(=NC=CC1)SCCN | C7H9N3O2S
